US07897767B2
Using the general method of Example 5 Part A, tert-butyl[2-(3-aminoquinolin-4-ylamino)ethyl]carbamate (43.5 g, 144 mmol) was reacted with chloroacetyl chloride (17.72 g, 158 mmol) to provide 37.39 g of tert-butyl[2-(2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate.

reactant | tert-butyl[2-(3-aminoquinolin-4-ylamino)ethyl]carbamate | 144 mmol, 43.5 g | C(C)(C)(C)OC(NCCNC1=C(C=NC2=CC=CC=C12)N)=O | C16H22N4O2
reactant | chloroacetyl chloride | 158 mmol, 17.72 g | ClCC(=O)Cl | C2H2Cl2O
product | tert-butyl[2-(2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate | 37.39 g | C(C)(C)(C)OC(NCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCl)=O | C18H21ClN4O2
